US07259183B2
Preparation of (4-tert-butyl-benzyl)-[2-(3,4-difluoro-phenyl)-ethyl]-amine
1.3 ml of 4-tert-butylbenzaldehyde (7.75 mmol) and 1 g of 2-(3,4-difluoro-phenyl)-ethyl-amine hydrochloride (5.16 mmol) and 714 mg of potassium carbonate (5.16 mmol) were suspended in 15 ml methanol at rt, and after stirring for 30 min at rt, were refluxed for 2 h. After cooling down to rt, 293 mg (7.75 mmol) sodium borohydride were added and after stirring for 5 min at rt, the reaction mixture was then refluxed for 4 h. After cooling down to rt, the reaction mixture was treated with 1 ml 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:4) to give 584 mg yellow oil (37%). MS (ISP) 304.2 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 7.75 mmol, 1.3 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-(3,4-difluoro-phenyl)-ethyl-amine hydrochloride | 5.16 mmol, 1 g | Cl.FC=1C=C(C=CC1F)CCN
reactant | potassium carbonate | 5.16 mmol, 714 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 7.75 mmol, 293 mg | [BH4-].[Na+]
reactant | HCl | 1 N, 1 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | (4-tert-butyl-benzyl)-[2-(3,4-difluoro-phenyl)-ethyl]-amine | 584 mg, 37% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)F)F)C=C1 | C19H23F2N
